US07253318B2
a) 4-(3-Fluoro-benzyloxy)-benzaldehyde
A mixture of 6.0 g of 4-hydroxy-benzaldehyde and 13.58 g of potassium carbonate in 60 ml of N,N-dimethylformamide was treated dropwise at room temperature with a solution of 11.14 g of 3-fluoro-benzylbromide in 30 ml of N,N-dimethylformamide. After 3 h the reaction mixture was diluted with water and extracted with ether. The organic layer was washed with water, dried over magnesium sulphate and evaporated to yield an oil (9.85 g) which crystallised on standing; MS: m/e=230 (M)+. The crude product was used in the next step without further purification.

reactant | 4-hydroxy-benzaldehyde | 6.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 13.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluoro-benzylbromide | 11.14 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(3-Fluoro-benzyloxy)-benzaldehyde | 9.85 g | FC=1C=C(COC2=CC=C(C=O)C=C2)C=CC1 | C14H11FO2
